Hello World
*This is a comment

.MODEL DMOD D
*Model for Diode D1
D1 1 2 DMOD

VCC 1 0 12
*VCC ordered from DigiKey

RDiode 2 0 1k 25
*R1 optional

*Controls:
.OPTIONS LIST NODE LIMPTS=6401
.DC VCC 0 100 1
.END