Hello World
*This is a comment

.MODEL DMOD D
*Model for Diode D1
D1 1 2 DMOD

VCC 1 0 12
*VCC ordered from DigiKey

R1 2 0 1k TC=25
R2 2 3 10k TC=25,35
R3 3 0 1k

*Controls:
.OPTIONS LIST NODE LIMPTS=6401
.DC VCC 0 100 1
.END